US04590273
3-(4-(2-Hydroxyethyl)-piperazin-1-yl)-isoquinoline
Prepared analogously to Example 1 from 3-chloroisoquinoline and N-(2-hydroxyethyl)-piperazine. Melting point of base 134°-136° C.; melting point of dihydrochloride 282°-283° C.

reactant | 3-chloroisoquinoline | ClC=1N=CC2=CC=CC=C2C1 | C9H6ClN
reactant | N-(2-hydroxyethyl)-piperazine | OCCN1CCNCC1 | C6H14N2O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 3-(4-(2-Hydroxyethyl)-piperazin-1-yl)-isoquinoline | OCCN1CCN(CC1)C=1N=CC2=CC=CC=C2C1 | C15H19N3O
